US08648066B2
methyl 6-bromo-1H-imidazo[4,5-c]pyridin-2-ylcarbamate
A solution of 2-bromo-5-nitropyridin-4-amine (1.5 g, 6.9 mmol) in acetic acid (20 mL) was added in portions into a 75° C. suspension of iron powder (1.5 g, 27 mmol) in acetic acid (20 mL). The reaction mixture was stirred at 75° C. for 2 h, cooled to room temperature, and filtered through celite. To the filtrate was added 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea (1.4 g, 6.9 mmol), and the mixture was stirred at 65° C. for 60 h. The reaction mixture was cooled to room temperature and concentrated. The solid residue was triturated with dichloromethane and dried to give the title Compound (1.8 g, quantitative yield) as an orange solid. MS (EI) for C8H7BrN4O2: 271/273 (MH+).

reactant | 2-bromo-5-nitropyridin-4-amine | 6.9 mmol, 1.5 g | BrC1=NC=C(C(=C1)N)[N+](=O)[O-] | C5H4BrN3O2
reactant | 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea | 6.9 mmol, 1.4 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 27 mmol, 1.5 g | [Fe] | Fe
product | methyl 6-bromo-1H-imidazo[4,5-c]pyridin-2-ylcarbamate | 1.8 g, quantitative yield | BrC1=CC2=C(C=N1)N=C(N2)NC(OC)=O | C8H7BrN4O2
